US07211601B2
(2S,4EZ)-N-[(1S,2S,3R,4R)-3-(aminocarbonyl)bicyclo[2.2.1]hept-5-en-2-yl]-1-([1,1′-biphenyl]-4-ylsulfonyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-sulfonyl chloride, and (1R,2R,3S,4S)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide, the title compound was obtained in 83% purity by HPLC. MS(ESI+): m/z=509.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
reactant | (1R,2R,3S,4S)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide | N[C@@H]1[C@@H]([C@H]2C=C[C@@H]1C2)C(=O)N | C8H12N2O
product | (2S,4EZ)-N-[(1S,2S,3R,4R)-3-(aminocarbonyl)bicyclo[2.2.1]hept-5-en-2-yl]-1-([1,1′-biphenyl]-4-ylsulfonyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | NC(=O)[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)NC(=O)[C@H]2N(CC(C2)=NOC)S(=O)(=O)C2=CC=C(C=C2)C2=CC=CC=C2 | C26H28N4O5S
